US07335658B2
6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-CYCLOPROPYLPROPYL)AMIDE
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid (3-cyclopropylpropyl)amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(2-trifluoromethylphenyl)methanone, the title compound was obtained as a white solid (28% yield). 1H NMR (400 MHz, CDCl3) δ 8.04, 7.89, 7.73, 7.65, 7.58, 7.38, 6.99, 4.08-3.67, 3.54-3.46, 3.39-3.31, 1.77-1.66, 1.34-1.23, 0.72-0.62, 0.45-0.36, 0.06-0.04. MS (ES+) m/z 462.2 (M+1).

reactant | 6-chloropyridazine-3-carboxylic acid (3-cyclopropylpropyl)amide | C1(CC1)CCCNC(=O)C=1N=NC(=CC1)Cl | C11H14ClN3O
reactant | piperazin-1-yl-(2-trifluoromethylphenyl)methanone | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-CYCLOPROPYLPROPYL)AMIDE | C1(CC1)CCCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C23H26F3N5O2
